US04233237
A mixture of 5.2 g of sodium 2-chloro-5-nitrobenzenesulfonate, 0.6 g of manganese dioxide, 15 ml of 2-methoxyethanol, 1 ml of water and 0.95 g of sodium hydroxide was stirred at 75° C. for 40 minutes. After cooling, the insoluble materials were removed by filtration and the filtrate was poured into 100 ml of isopropyl alcohol. The crystals thus-precipitated were recovered by filtration to obtain 4.8 g of sodium 2-(2-methoxyethoxy)-5-nitrobenzenesulfonate. Melting Point: 238° to 239° C. The compound obtained by Method 2 was the same as that obtained by Method 1.

reactant | sodium 2-chloro-5-nitrobenzenesulfonate | 5.2 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+]
reactant | 2-methoxyethanol | 15 ml | COCCO | C3H8O2
reactant | sodium hydroxide | 0.95 g | [OH-].[Na+]
catalyst | manganese dioxide | 0.6 g | [O-2].[O-2].[Mn+4]
solvent | water | 1 ml | O | H2O
product | sodium 2-(2-methoxyethoxy)-5-nitrobenzenesulfonate | 4.8 g | COCCOC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+] | InChI=1S/C9H11NO7S.Na/c1-16-4-5-17-8-3-2-7(10(11)12)6-9(8)18(13,14)15;/h2-3,6H,4-5H2,1H3,(H,13,14,15);/q;+1/p-1
